US06262064B1
Synthesis of cis-(−)-7-Hydroxy-4-Phenethyl-1,2,3,4,4a,5,6,10b-Octahydrobenzo[f]Quinoline
Cis-(−)-7-hydroxy4-phenethyl-1,2,3,4,4a,5,6, 10b)-octahydrobenzo[f]quinoline (hereinafter, “cis-(−)-25”) was prepared in 46% yield from 34 mg (0.11 mmole) of cis-(−-24 by the method described for trans-9 in Example 3. The melting point observed was 196° C. and [α]D (20° C.) was −6.0 (c 0.20, MeOH).

reactant | octahydrobenzo[f]quinoline | C1CCNC2CCC3C(=C12)C=CC=C3 | C13H17N
reactant | MeOH | CO | CH4O
product | cis-(−)-7-Hydroxy-4-Phenethyl-1,2,3,4,4a,5,6,10b-Octahydrobenzo[f]Quinoline | 46% yield | OC1=CC=CC=2[C@H]3CCCN([C@H]3CCC21)CCC2=CC=CC=C2 | C21H25NO
